US05420130
6.2 1,1-Dimethylethyl 2-[[[2-[[3-[4-(5-chloro-2-methoxyphenyl)piperazin-1-yl]propyl]amino]pyrazin-5-yl]carbonyl]amino]ethylcarbamate.
4 g (0.0095 mol) of methyl 2-[[3-[4-(5-chloro-2-methoxyphenyl)piperain-1-yl]propyl]amino]-pyrazine-5-carboxylate and 3.05 g (0.02 mol) of 1,1-dimethylethyl 2-aminoethylcarbamate are introduced into 10 ml of 2-propanol in a 0.5 l round-bottomed flask and the mixture is heated at reflux for 2 days.

reactant | methyl 2-[[3-[4-(5-chloro-2-methoxyphenyl)piperain-1-yl]propyl]amino]-pyrazine-5-carboxylate | 0.0095 mol, 4 g | ClC=1C=CC(=C(C1)N1CCN(CC1)CCCNC1=NC=C(N=C1)C(=O)OC)OC | C20H26ClN5O3
reactant | 1,1-dimethylethyl 2-aminoethylcarbamate | 0.02 mol, 3.05 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
product | 1,1-Dimethylethyl 2-[[[2-[[3-[4-(5-chloro-2-methoxyphenyl)piperazin-1-yl]propyl]amino]pyrazin-5-yl]carbonyl]amino]ethylcarbamate | ClC=1C=CC(=C(C1)N1CCN(CC1)CCCNC1=NC=C(N=C1)C(=O)NCCNC(OC(C)(C)C)=O)OC | C26H38ClN7O4
